Simulation - Total Response

*
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents

* Passive Elements - Resistors
R1 1 2 1.02597459645kOhm
R2 3 2 2.02178008702kOhm
R3 2 5 3.03144887426kOhm
R4 5 0 4.13109833342kOhm
R5 5 6 3.09601431108kOhm
R6 0 4 2.01920057699kOhm
R7 7 8 1.02918842978kOhm

* supply voltage
Vs 1 0 0.0 ac 1.0 sin(0 1 1k)

* add a voltage source with value 0V to sence de control current
Vo 4 7 0V

* current-controlled dependent voltage source
Hvd 5 8 Vo 8.0919603219kOhm

* voltage-controlled dependent current source
Gib 6 3 2 5 7.28538907285mS

* capacitor
C 6 8 1.011814928uF

.ic v(6)=8.618561e+00 v(8)=-5.32907e-15

.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

op

echo  "op_TAB"
print all
echo  "op_END"


echo "********************************************"
echo  "Transient analysis"
echo "********************************************"
tran 1e-5 20e-3

hardcopy trans_tot.ps v(1) v(6)
echo trans_tot_FIG

echo "********************************************"
echo  "Frequency analysis"
echo "********************************************"

ac dec 100 0.1 1MEG

hardcopy db.ps db(v(1)) db(v(6)) db(v(6)-v(8))
echo b_FIG

hardcopy ph.ps ph(v(1))*180/pi ph(v(6))*180/pi ph(v(6)-v(8))*180/pi
echo ph_FIG

quit
.endc

.end
